US07312358B2
Sodium acetate was dissolved in water (0.5 mL). The carboxylic acid methyl ester builiding lock III, e.g. methyl{[(4-bromophenyl)sulfonyl]-4-methylanilino}acetate (398 mg, 1 mmol), in DMW (3.5 mL) was added, followed by acrylamide (78 mg, 1.11 mmol), triphenylphosphine (26.2 mg, 0.11 mmol, 10 mol %) and palladium diacetate (11.2 mg, 0.05 mmol, 5 mol %). The resulting mixture was degazed for 5 min with argon and was heated at 80° C. for 3 h. It was filtrated through celite. Water (5 mL) was added and the desired product was extracted with ethyl acetate (3×7 mL). Combined organic phases were dried over magnesium sulfate before filtering and removal of solvent The desired product, e.g. methyl[({4-[(1E)-3-amino-3-oxo-1-propenyl]phenyl}sulfonyl)-4-methylanilino]acetate was obtained as a colorless oil, in 88% purity by HPLC (MaxPlot detection between 230 and 400 nm). This intermediate was used in the next step without further purification.

reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
reactant | methyl{[(4-bromophenyl)sulfonyl]-4-methylanilino}acetate | 1 mmol, 398 mg | COC(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)Br)=O | C16H16BrNO4S
reactant | acrylamide | 1.11 mmol, 78 mg | C(C=C)(=O)N | C3H5NO
reactant | triphenylphosphine | 0.11 mmol, 26.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 0.5 mL | O | H2O
catalyst | palladium diacetate | 0.05 mmol, 11.2 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | methyl[({4-[(1E)-3-amino-3-oxo-1-propenyl]phenyl}sulfonyl)-4-methylanilino]acetate | COC(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)\C=C\C(=O)N)=O | C19H20N2O5S
